US09216999B2
1-[trans-4-(7H-Pyrrolo[3,2-e][1,2,3]triazolo[1,5-c]pyrimidin-1-yl)cyclohexyl]-N-cyclopropylmethanesulfonamide
[trans-4-(7H-Pyrrolo[3,2-e][1,2,3]triazolo[1,5-c]pyrimidin-1-yl)cyclohexyl]methanesulfonic acid (17.8 mg, 0.0530 mmol) in dichloromethane (1.5 mL) and N,N-dimethylformamide (1.8 mL) was stirred with thionyl chloride (0.00770 mL, 0.106 mmol) at room temperature for 1 hour. The reaction mixture was concentrated under reduced pressure. The residue was dissolved in dichloromethane (1.0 mL) and mixed with N,N-diisopropylethylamine (0.0923 mL, 0.530 mmol) and cyclopropylamine (0.0148 mL, 0.212 mmol) under cooling with ice and then stirred at room temperature for 1 day. After addition of water, the reaction mixture was extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl hexane/acetate=4/1→1/1→1/3 (v/v)) to give the title compound as a brown solid (1.50 mg, yield 7.5%).

reactant | [trans-4-(7H-Pyrrolo[3,2-e][1,2,3]triazolo[1,5-c]pyrimidin-1-yl)cyclohexyl]methanesulfonic acid | 0.0530 mmol, 17.8 mg | C=1(N=NN2C=NC3=C(C21)C=CN3)[C@@H]3CC[C@H](CC3)CS(=O)(=O)O | C14H17N5O3S
reactant | thionyl chloride | 0.106 mmol, 0.00770 mL | S(=O)(Cl)Cl | Cl2OS
reactant | N,N-diisopropylethylamine | 0.530 mmol, 0.0923 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | cyclopropylamine | 0.212 mmol, 0.0148 mL | C1(CC1)N | C3H7N
solvent | dichloromethane | 1.5 mL | ClCCl | CH2Cl2
solvent | N,N-dimethylformamide | 1.8 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 1-[trans-4-(7H-Pyrrolo[3,2-e][1,2,3]triazolo[1,5-c]pyrimidin-1-yl)cyclohexyl]-N-cyclopropylmethanesulfonamide | 1.50 mg, yield 7.5% | C=1(N=NN2C=NC3=C(C21)C=CN3)[C@@H]3CC[C@H](CC3)CS(=O)(=O)NC3CC3 | C17H22N6O2S
